Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
___: Right sided pigtail placement

 
History of Present Illness:
Ms. ___ is a lovely ___ who presented to the hospital
as a transfer from an OSH secondary to a fall that she
experienced on ___. In brief, Ms. ___ lost her
balance while she was in the shower and fell on her right side.
She was able to get up and walk to the kitchen. Later that day
she started experiencing right sided chest pain and for this
reason she went to the hospital for further management. She
denies any head strike or loss of consciousness - she remembers
the entire event. At the OSH a chest X-ray was obtained and she
was found to have a right sided rib fracture. She was discharged
home. She slowly started feeling much better until ___ 
evening
when she started experiencing a left sided chest pain that
radiated to her back. She took aspirin for pain relief and she
was subsequently went to an OSH for further management. At the
OSH given the nature of the pain a CT scan of her chest and
abdomen were obtained. She was found to have a right sided
pneumothorax as well as fractures of the right ___ through 10th
ribs. For this reason she was transferred to ___ for further
management. In the ED she reports that her left chest pain has
improved however it is still present. She also complaints of 
mild
back pain. 

On review of systems Ms. ___ notes that on ___
she started experiencing a cough that was productive in nature.
She also noticed one day of chills but no fevers. The cough
resolved during the beginning of this week. 

ROS:
(+) per HPI
(-) Denies  night sweats, unexplained weight
loss, fatigue/malaise/lethargy, changes in appetite, trouble 
with
sleep, pruritis, jaundice, rashes, bleeding, easy bruising,
headache, dizziness, vertigo, syncope, weakness, paresthesias,
nausea, vomiting, hematemesis, bloating, cramping, melena, 
BRBPR,
dysphagia, chest pain, shortness of breath, cough, edema, 
urinary
frequency, urgency

 
Past Medical History:
Glaucoma
Macular degeneration
Hypothyroidism
COPD
Restrictive Lung Disease
Diverticulosis
Colonoscopy ___

Past Surgical History:
Cystocele repair ___
Left hip surgery ___

 
Social History:
___
Family History:
Arthritis
Prostate cancer
Throat cancer
 
Physical Exam:
Physical Exam on Admission:
Vitals: 97.8F,BP: 171/61, HR:77, RR:20, 98% saturation on room 
air
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: Clear to auscultation b/l; mild pain on palpation of right
sided lower ribs; no tenderness to palpation of sternum or left
sided rib cage
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
Ext: No ___ edema, ___ warm and well perfused
Spine: Mild tenderness to palpation in the mid thoracic region
Neuro: 
Upper and lower extremities ___ throughout; sensation intact
Cranial nerves ___ intact

Physical Exam on Discharge:
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: Clear to auscultation b/l; no tenderness on palpation
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
ADMISSION LABS
===============

___ 06:09AM BLOOD WBC-27.1* RBC-3.97 Hgb-13.1 Hct-40.2 
MCV-101* MCH-33.0* MCHC-32.6 RDW-14.3 RDWSD-53.2* Plt ___
___ 06:09AM BLOOD Neuts-82.3* Lymphs-8.1* Monos-7.1 
Eos-0.7* Baso-0.7 Im ___ AbsNeut-22.33* AbsLymp-2.20 
AbsMono-1.92* AbsEos-0.18 AbsBaso-0.18*
___ 06:09AM BLOOD ___ PTT-31.3 ___
___ 06:09AM BLOOD Plt ___
___ 06:09AM BLOOD Glucose-123* UreaN-18 Creat-0.6 Na-132* 
K-6.8* Cl-96 HCO3-24 AnGap-12
___ 06:09AM BLOOD ALT-14 AST-56* AlkPhos-79 TotBili-<0.2
___ 06:09AM BLOOD cTropnT-<0.01
___ 12:03PM BLOOD cTropnT-<0.01

IMAGING
=======
CXR ___
Small right pleural effusion.

___ CXR
Interval enlargement of right-sided pneumothorax since prior 
chest x-ray.  
Pigtail catheter is at least partially extra pleural. 

CTA chest ___
1. Interval enlargement of moderate right pneumothorax and 
hemothorax since 
prior CT performed earlier this morning.  No CT evidence of 
tension 
physiology.  Per trauma surgery note, pigtail thoracostomy tube 
placement is 
planned. 
2. Multiple acute comminuted and mildly displaced right-sided 
rib fractures 
involving the ___ ribs, detailed above. 
3. No evidence of pulmonary embolism or aortic abnormality. 
4. Moderate to severe right basilar atelectasis. 
5. 3 mm left upper lobe pulmonary nodule.  See recommendations. 
  
RECOMMENDATION(S):  For incidentally detected single solid 
pulmonary nodule smaller than 6 mm, no CT follow-up is 
recommended in a low-risk patient, and an optional CT in 12 
months is recommended in a high-risk patient. 

CXR ___
In comparison with the study of in ___, there still may be a 
tiny right 
apical pneumothorax with pigtail catheter in place.  
Subcutaneous gas is again seen along the lateral chest wall on 
the right.  In otherwise, little overall change. 

CXR ___
In comparison with the study of ___, there is little change in 
the
appearance of the right chest tube.  No evidence of 
pneumothorax.  There is
decreasing subcutaneous emphysema along the right lateral chest 
wall.  Little
overall change in the small right pleural effusion.
The left lung remains essentially clear.

CXR ___

-Probable trace right apical residual pneumothorax.
-Increased right basilar density compatible with worsening 
atelectasis.
-Trace bilateral pleural effusions.

Discharge labs
===========
___ 05:45AM BLOOD WBC-23.1* RBC-3.41* Hgb-11.3 Hct-35.8 
MCV-105* MCH-33.1* MCHC-31.6* RDW-14.6 RDWSD-56.7* Plt ___
___ 05:45AM BLOOD Plt ___
___ 05:45AM BLOOD Glucose-103* UreaN-13 Creat-0.6 Na-135 
K-4.8 Cl-99 HCO3-28 AnGap-8*
___ 05:45AM BLOOD Calcium-8.6 Phos-3.7 Mg-2.3
___ 06:04AM BLOOD K-4.1
 
Brief Hospital Course:
The patient presented to Emergency Department on ___. 
Patient was found to have a leukocytosis, right sided rib 
fractures and a right sided pneumothorax. She was admitted to 
the trauma service for further management. 

During the hospital course review of systems had as follow:
 
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with oxycodone and 
acetaminophen. 

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 

GI/GU/FEN: The patient was initially kept NPO and when we 
ensured she was hemodynamically stable her diet was advanced to 
a regular. Patient did not require a Foley placement during this 
hospital course. She was voiding spontaneously without issues. 

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none. She was found to have a 
leukocytosis on admission for which a medical consult was 
placed. They recommended outpatient follow up with PCP. 

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. Breo Ellipta (fluticasone furoate-vilanterol) 100-25 mcg/dose 
inhalation daily 
4. Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic (eye) 
daily 
5. Aspirin 81 mg PO DAILY 
6. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen [8 Hour Pain Reliever] 650 mg 1 tablet(s) by 
mouth every six (6) hours Disp #*15 Tablet Refills:*0 
2.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation - Second Line  
3.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*6 Capsule Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*15 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation  
RX *polyethylene glycol 3350 [ClearLax] 17 gram/dose 1 dose by 
mouth once a day Disp #*3 Packet Refills:*0 
6.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [Evac-U-Gen (sennosides)] 8.6 mg 1 tablet(s) by 
mouth twice a day Disp #*6 Tablet Refills:*0 
7.  Aspirin 81 mg PO DAILY  
8.  Breo Ellipta (fluticasone furoate-vilanterol) 100-25 
mcg/dose inhalation daily  
9.  Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic (eye) 
daily  
10.  Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID  
11.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
12.  Levothyroxine Sodium 50 mcg PO DAILY  
13.Outpatient Lab Work
807.0
Please check CBC with differential and Chem10 in a week after 
discharge. 
Please fax result to patient's PCP: ___.
___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right rib fractues, pneumothorax

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

* Your injury caused right sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain. 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
* Do NOT smoke
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain (ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___